US09079866B2
5-{2-Fluoro-4-[2-(1-methylethoxy)pyridin-3-yl]phenyl}pyrazin-2-amine
The title compound was prepared using methods analogous to those described in Example 369 using (2-isopropoxypyridin-3-yl)boronic acid and 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine in Step B. MS (ESI): mass calcd. for C18H17FN4O, 324.14; m/z found, 325.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.63-8.57 (m, 1H), 8.18-8.13 (m, 1H), 8.12 (d, J=1.4, 1H), 7.99-7.90 (m, 1H), 7.69-7.62 (m, 1H), 7.58-7.41 (m, 2H), 6.98-6.91 (m, 1H), 5.49-5.35 (m, 1H), 4.68 (s, 2H), 1.37 (d, J=6.2, 6H).

reactant | (2-isopropoxypyridin-3-yl)boronic acid | C(C)(C)OC1=NC=CC=C1B(O)O | C8H12BNO3
reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
product | 5-{2-Fluoro-4-[2-(1-methylethoxy)pyridin-3-yl]phenyl}pyrazin-2-amine | FC1=C(C=CC(=C1)C=1C(=NC=CC1)OC(C)C)C=1N=CC(=NC1)N | C18H17FN4O
